US04230850
STAGE B. 4-(2'-Morpholinoethoxy)-3-phenyl-6-tert.-butyl-5,6,7,8-tetrahydro-coumarin
Obtained according to Example 14, Stage B, by treating 14.2 g. (0.05 mol) of 4-hydroxy-3-phenyl-6-tert.butyl-5,6,7,8-tetrahydro-coumarin with 9.7 g. (0.065 mol) of 2-morpholino-1-chlorethane. After evaporation of the chloroform, 17 g. of an oil are obtained, which cannot be crystallised. Yield 84.6% (theoretical yield 20.35 g.).

reactant | 4-hydroxy-3-phenyl-6-tert.butyl-5,6,7,8-tetrahydro-coumarin | 0.05 mol | OC1=C(C(OC=2CCC(CC12)C(C)(C)C)=O)C1=CC=CC=C1 | C19H22O3
reactant | 2-morpholino-1-chlorethane | 0.065 mol | O1CCN(CC1)CCCl | C6H12ClNO
product | 4-(2'-Morpholinoethoxy)-3-phenyl-6-tert.-butyl-5,6,7,8-tetrahydro-coumarin | Yield 84.6% | O1CCN(CC1)CCOC1=C(C(OC=2CCC(CC12)C(C)(C)C)=O)C1=CC=CC=C1 | C25H33NO4
